US04012377
p-Fluorocinnamaldehyde
This compound was prepared following the procedure of Preparation 17 starting from p-fluorobenzaldehyde and acetaldehyde. Yield, 47%. b.p. 80°-95°/2 mm., λmax. (EtOH) 220, 285 nm., ε 10500, 23400.

reactant | p-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | acetaldehyde | C(C)=O | C2H4O
solvent | EtOH | CCO | C2H6O
product | p-Fluorocinnamaldehyde | FC1=CC=C(C=CC=O)C=C1 | C9H7FO
